US06734180B1
2-[5-methylthieno[2,3-d]pyrimidine-4-yl]aminoindan-5-carboxylic acid morpholinamide
Using 2-aminoindan-5-carboxylic acid morpholinamide hydrochloride (750 mg, 2.7 mmol), ethanol (23 ml), triethylamine (1.1 ml, 8.2 mmol), and 4-chloro-5-methylthieno[2,3-d]pyrimidine (500 mg, 2.7 mmol), a similar procedure to b) in Example 19 was carried out. The product obtained was purified by silica gel chromatography (methylene chloride:methanol=95:5) to yield a fraction, which was then washed with ether to obtain the title compound (680 mg, 1.7 mmol) having the following physical properties:

reactant | 2-aminoindan-5-carboxylic acid morpholinamide hydrochloride | 2.7 mmol, 750 mg | Cl.N1(CCOCC1)C(=O)N.NC1CC2=CC=C(C=C2C1)C(=O)O
reactant | triethylamine | 8.2 mmol, 1.1 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-5-methylthieno[2,3-d]pyrimidine | 2.7 mmol, 500 mg | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
solvent | ethanol | 23 ml | C(C)O | C2H6O
product | 2-[5-methylthieno[2,3-d]pyrimidine-4-yl]aminoindan-5-carboxylic acid morpholinamide | 1.7 mmol, 680 mg | N1(CCOCC1)C(=O)N.CC1=CSC=2N=CN=C(C21)NC2CC1=CC=C(C=C1C2)C(=O)O | InChI=1S/C17H15N3O2S.C5H10N2O2/c1-9-7-23-16-14(9)15(18-8-19-16)20-13-5-10-2-3-11(17(21)22)4-12(10)6-13;6-5(8)7-1-3-9-4-2-7/h2-4,7-8,13H,5-6H2,1H3,(H,21,22)(H,18,19,20);1-4H2,(H2,6,8)
